US05707982
STEP C: N-butyl-[(5-hydroxypentyl)-oxy]-N-methyl acetamide
To a solution of 8 g of the alcohol of Step B in 40 ml of tetrahydrofuran there were added 2.16 g of 50% sodium hydride in oil. The mixture was stirred for 30 minutes at ambient temperature and then a solution of 9.5 g of the brominated compound of Step A in 13 ml of tetrahydrofuran was added dropwise over 15 minutes. The mixture was stirred for 16 hours at ambient temperature and a saturated aqueous solution of ammonium chloride was added. The mixture was extracted with ethyl acetate and the organic phase was washed, dried and evaporated to dryness under vacuum to obtain 14.8 g of intermediate N-butyl-[5-[(dimethyl-(1,1-dimethylethyl)-silyl]-oxy]-pentyl)-oxy!-N-methyl acetamide which was dissolved in 83 ml of tetrahydrofuran and 46 ml of a 1M solution of tetrabutyl ammonium fluoride. The mixture was stirred for 2 hours at ambient temperature and then poured into water and extracted with ethyl acetate. The organic phase was evaporated to dryness under reduced pressure and the 13.6 g of residue were chromatographed on silica (eluant: methylene chloride-isopropanol 94-6) to obtain 7.28 g of the desired compound.

reactant | N-methyl acetamide | CNC(C)=O | C3H7NO
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | tetrahydrofuran | 83 ml | O1CCCC1 | C4H8O
product | N-butyl-[(5-hydroxypentyl)-oxy]-N-methyl acetamide | 7.28 g | C(CCC)N(C(COCCCCCO)=O)C | C12H25NO3
